US05336663
2-Chloro-5-[3,6-dihydro-2,6-dioxo-3-methyl-4-trifluoromethyl-1(2H)-pyrimidinyl]benzaldehyde
A solution of 20.08 g of 2-chloro-5-[3,6-dihydro-2,6-dioxo-3-methyl-4-trifluoromethyl-1(2H)-pyrimidinyl] benzyl alcohol in 250 ml dichloromethane is added dropwise in the course of 30 minutes with stirring at room temperature to a suspension of 19.38 g of pyridinium chlorochromate in 250 ml of dichloromethane, and stirring of the reaction mixture is continued for 3 hours at 25°-28° C. The clear solution is decanted, the brown residue is washed with 100 ml of dichloromethane, and the dichloromethane solution is filtered through 150 g of silica gel. The filtrate is concentrated, and the residue is recrystallised from n-hexane/ethyl acetate; m.p.: 168°-169° C.

reactant | 2-chloro-5-[3,6-dihydro-2,6-dioxo-3-methyl-4-trifluoromethyl-1(2H)-pyrimidinyl] benzyl alcohol | 20.08 g | ClC1=C(CO)C=C(C=C1)N1C(N(C(=CC1=O)C(F)(F)F)C)=O | C13H10ClF3N2O3
reactant | pyridinium chlorochromate | 19.38 g | [Cr](=O)(=O)([O-])Cl.[NH+]1=CC=CC=C1
solvent | dichloromethane | 250 ml | ClCCl | CH2Cl2
solvent | dichloromethane | 250 ml | ClCCl | CH2Cl2
product | 2-Chloro-5-[3,6-dihydro-2,6-dioxo-3-methyl-4-trifluoromethyl-1(2H)-pyrimidinyl]benzaldehyde | ClC1=C(C=O)C=C(C=C1)N1C(N(C(=CC1=O)C(F)(F)F)C)=O | C13H8ClF3N2O3
